US20010020034A1
3-(4-Bromo-2,6-difluoro-benzyloxy)-5-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-ureido} -isothiazole-4-carboxylic acid amide
The title compound was prepared from [3-(4-bromo-2,6-difluoro-benzyloxy)-4-carbamoyl-isothiazol-5-yl]-carbamic acid phenyl ester and 3-(4-methyl-piperazin-1-yl)-propylamine by the procedure analogous to Example 1. MS (APCl, m/z): 547 and 549 [M+H]+.

reactant | [3-(4-bromo-2,6-difluoro-benzyloxy)-4-carbamoyl-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)Br)F)C(N)=O)=O | C18H12BrF2N3O4S
reactant | 3-(4-methyl-piperazin-1-yl)-propylamine | CN1CCN(CC1)CCCN | C8H19N3
product | 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-ureido} -isothiazole-4-carboxylic acid amide | BrC1=CC(=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCN2CCN(CC2)C)C(=C1)F)F | C20H25BrF2N6O3S
